US06342765B1
A mixture of 1-(4-fluorophenyl)-2-(1-methylimidazol-5-yl)ethanone (1.3 g.), sodium borohydride (0.25 g.) and methanol (50 ml.) was stirred at ambient temperature for 2 hours under an inert atmosphere. The methanol was evaporated away and water (30 ml.) added to the residue. The mixture was filtered and the solid washed with more water and dried to give 1-(4-fluorophenyl)-2-(1-methylimidazol-5-yl)ethanol (1.18 g.).

reactant | 1-(4-fluorophenyl)-2-(1-methylimidazol-5-yl)ethanone | 1.3 g | FC1=CC=C(C=C1)C(CC1=CN=CN1C)=O | C12H11FN2O
reactant | sodium borohydride | 0.25 g | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-(4-fluorophenyl)-2-(1-methylimidazol-5-yl)ethanol | 1.18 g | FC1=CC=C(C=C1)C(CC1=CN=CN1C)O | C12H13FN2O
